US09382188B2
Q) ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)propanoate
Under a hydrogen atmosphere, a mixture of ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)acrylate (119 mg), 10% palladium-carbon (50 mg) and ethyl acetate (2.0 mL) was stirred at room temperature for 1 hr. The catalyst was removed by filtration, and the filtrate was evaporated under reduced pressure to give the title compound (90 mg) as a colorless oil.

reactant | ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)acrylate | 119 mg | FC(CC=1C=C(C=CC1)C=CC(=O)OCC)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H33F2NO3
catalyst | palladium-carbon | 50 mg | [C].[Pd]
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(3-(2-fluoro-2-(5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)ethyl)phenyl)propanoate | 90 mg | FC(CC=1C=C(C=CC1)CCC(=O)OCC)C1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C30H35F2NO3
